datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC[NH+:21](C(C)C(=O)[O-])[H:20].C[N:10](C)CCC/N=C(\c1ccccc1)c1ccccc1-c1ccccc1>>CCC[NH:21]C(C)C(=O)[O-].C[N+:10](C)(CCC/N=C(\c1ccccc1)c1ccccc1-c1ccccc1)[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])c1ccc(C[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])c1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"C[C@@H]([C@H](O)c1ccccc1)[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[C@@H]([C@H](O)c1ccccc1)[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCSC([OH2+])(C(F)(F)F)[O-:10].[NH3+]C(Cc1c[n+:21]([H:20])c[nH]1)C(=O)NCC(=O)[O-]>>CCSC([OH2+])(C(F)(F)F)[O:10][H:20].[NH3+]C(Cc1c[n:21]c[nH]1)C(=O)NCC(=O)[O-] 10=20;20,21=21",
"Cn1nc([N+](=O)[O-])nc1[N-:10]N=O.O=C1/C(=N/[O:21][H:20])C=Cc2ccccc21>>Cn1nc([N+](=O)[O-])nc1[N:10](N=O)[H:20].O=C1/C(=N/[O-:21])C=Cc2ccccc21 10=20;20,21=21",
"C1=C(c2nc3ccccc3o2)C2CC[N:10]1CC2.Nc1ccc2cc3ccccc3[n+:21]([H:20])c2c1>>C1=C(c2nc3ccccc3o2)C2CC[N+:10]1([H:20])CC2.Nc1ccc2cc3ccccc3[n:21]c2c1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[NH:10]CC[C@]314.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>COc1ccc2c3c1O[C@H]1CCC[C@H]4[C@@H]([C@H]2O)[NH+:10]([H:20])CC[C@]314.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[O:10]C.NC(=O)CC(N)C(=O)[O:21][H:20]>>C[O+:10](C)[H:20].NC(=O)CC(N)C(=O)[O-:21] 10=20;20,21=21",
"CCC(=O)C(CC[N:10]1CCOCC1)(c1ccccc1)c1ccccc1.CC[C@]12CCC[N+:21]3([H:20])CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23>>CCC(=O)C(CC[N+:10]1([H:20])CCOCC1)(c1ccccc1)c1ccccc1.CC[C@]12CCC[N:21]3CC[C@@]4(c5cccc(OC)c5N[C@H]4CC1)[C@H]23 10=20;20,21=21",
"COC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>COC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O-:10].O=[N+]([O-])c1nc(-n2cncn2)[n:21]([H:20])n1>>O=C(/C=C/c1cccc([N+](=O)[O-])c1)[O:10][H:20].O=[N+]([O-])c1nc(-n2cncn2)[n-:21]n1 10=20;20,21=21",
"COc1ccc(/C=N/c2ncc3c(n2)[nH]c[n+:21]3[H:20])cc1.O=C(c1cccc(C2CC2)c1)[O-:10]>>COc1ccc(/C=N/c2ncc3c(n2)[nH]c[n:21]3)cc1.O=C(c1cccc(C2CC2)c1)[O:10][H:20] 10=20;20,21=21",
"C#C[C@]1(O)C[C@@H](C)[N:10](C)[C@H]2CCCC[C@@H]21.Nc1cc[nH][n+:21]1[H:20]>>C#C[C@]1(O)C[C@@H](C)[N+:10](C)([H:20])[C@H]2CCCC[C@@H]21.Nc1cc[nH][n:21]1 10=20;20,21=21",
"Cc1c[n:10]c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.O=C(c1ccc(CCl)cc1)[O:21][H:20]>>Cc1c[n+:10]([H:20])c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.O=C(c1ccc(CCl)cc1)[O-:21] 10=20;20,21=21",
"C1C[NH:10]CCS1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1C[NH+:10]([H:20])CCS1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O:21][H:20])cc2[nH]ncc12.O=[N+]([O-])c1ccc(Cl)cc1C[NH2:10]>>O=S(=O)([O-])c1cc([O-:21])cc2[nH]ncc12.O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:10][H:20] 10=20;20,21=21",
"NCCC[NH:10]CCO.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCCC[NH+:10](CCO)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"Cc1ccccc1/C(c1cccc2ccccc12)=[N:10]/CCC[NH+](C)C.Cc1ccccc1[NH+:21](C1CCCCC1)[H:20]>>Cc1ccccc1/C(c1cccc2ccccc12)=[N+:10](/CCC[NH+](C)C)[H:20].Cc1ccccc1[NH:21]C1CCCCC1 10=20;20,21=21",
"CO/C(N)=[NH+:21]/[H:20].OCCC[C@H]1CC[C@@H]2CCC[N:10]12>>COC(N)=[NH:21].OCCC[C@H]1CC[C@@H]2CCC[N+:10]12[H:20] 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+:10](CC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Cc1cc(N)ccc1C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Cc1cc(N)ccc1C[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)n1ccnc1Cc1[nH]cc[n+:21]1[H:20].CN1C(=O)[N-:10]C(=O)c2[nH]cnc21>>CC(=O)n1ccnc1Cc1[nH]cc[n:21]1.CN1C(=O)[N:10]([H:20])C(=O)c2[nH]cnc21 10=20;20,21=21",
"COCCSC(C)[O:21][H:20].C[NH:10]CCO>>COCCSC(C)[O-:21].C[NH+:10](CCO)[H:20] 10=20;20,21=21",
"Cc1ccc(C)c(C(=O)C(=O)[O-:10])c1.Cc1ccc(CO[NH2+:21][H:20])cc1>>Cc1ccc(C)c(C(=O)C(=O)[O:10][H:20])c1.Cc1ccc(CO[NH2:21])cc1 10=20;20,21=21",
"COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N+:21](C)([H:20])CC[C@]314.Ic1cccc(C2SCC[NH:10]2)c1>>COc1ccc2c3c1O[C@H]1C(=O)CC[C@H]4[C@@H](C2)[N:21](C)CC[C@]314.Ic1cccc(C2SCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"CCS/C(c1cccc(Br)c1)=[O+:21]\[H:20].COc1ccc([N-:10]C=S)cc1>>CCSC(c1cccc(Br)c1)=[O:21].COc1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"Cc1cc(N)ccc1C[NH2:10].O=C1Oc2cc([O:21][H:20])ccc2C=C1c1nc2ccccc2s1>>Cc1cc(N)ccc1C[NH2+:10][H:20].O=C1Oc2cc([O-:21])ccc2C=C1c1nc2ccccc2s1 10=20;20,21=21",
"CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O:21][H:20])cn3)CC2)[nH+]c2ccccc21.Cc1c[n:10]c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C>>CCOCCn1c(CN2CC[NH+](CCCCn3cc(C(=O)[O-:21])cn3)CC2)[nH+]c2ccccc21.Cc1c[n+:10]([H:20])c2c(C)ccc([N+](=O)[O-])c2c1NCCC[NH+](C)C 10=20;20,21=21",
"CC1(C)[C@@H](N)[C@@H]1[NH2:10].Clc1cccc([O:21][H:20])c1Cl>>CC1(C)[C@@H](N)[C@@H]1[NH2+:10][H:20].Clc1cccc([O-:21])c1Cl 10=20;20,21=21",
